US03988339
According to the procedure in Example 12, 8-nitro-7-trifluoromethylisoquinoline is heated with zinc and acetic acid in ethanol and water on a steam bath for five minutes and the reaction mixture is cooled, made alkaline and aqueous ammonium hydroxide and extracted with ethyl acetate. Removing the solvent from the extract in vacuo gives, as the residue, 8-amino-7-trifluoromethylisoquinoline.

reactant | 8-nitro-7-trifluoromethylisoquinoline | [N+](=O)([O-])C=1C(=CC=C2C=CN=CC12)C(F)(F)F | C10H5F3N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | zinc | [Zn] | Zn
product | 8-amino-7-trifluoromethylisoquinoline | NC=1C(=CC=C2C=CN=CC12)C(F)(F)F | C10H7F3N2
